US05378690
100 ml of acetic anhydride were added to 10 g (35 mmole) of 2-(1-naphthylidene)adipic acid (prepared as described above) and the mixture was stirred at 60° C. for 1 hour. At the end of this time, the solvent was removed by distillation under reduced pressure, and the resulting residue was triturated with a 1: 1 by volume mixture of benzene and hexane. The solvent was decantated to afford 8.8 g of 2-(1-naphthylidene)adipic anhydride as an oily material.

reactant | 2-(1-naphthylidene)adipic acid | 35 mmole, 10 g | C1(CC=CC2=CC=CC=C12)=C(C(=O)O)CCCC(=O)O | C16H16O4
solvent | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(1-naphthylidene)adipic anhydride | 8.8 g | C1(CC=CC2=CC=CC=C12)=C1C(=O)OC(CCC1)=O | C16H14O3
